US04052362
A solution of 9.5 g of hydrazine sulfate and 8.0 g of sodium hydroxide in 83 ml of water was stirred at 20° -30° C while cooled with ice. To the resulting solution were slowly added dropwise 25 g of cinnamoyl chloride and 7.5 g of sodium hydroxide in 20 ml of water. After completion of the addition, the mixture was stirred at 20° -30° C for 2 hours. The produced precipitate was collected by filtration and washed with water. The so obtained product was then recrystallized twice from acetic acid (first grade, prepared and sold by Wako Junyaku Kabushiki Kaisha, Japan, the same in the following) and dried under reduced pressure to yield 11.6 g of N,N'-biscinnamoylhydrazine as white needles, m.p. 267° - 268° C. Analysis: Calculated for C18H16N2O2 : C, 73.97%; H, 5.48%, N, 9.5%, Found: C, 74.17%; H, 5.55%; N, 9.69%.

reactant | hydrazine sulfate | 9.5 g | S(=O)(=O)(O)O.NN
reactant | sodium hydroxide | 8.0 g | [OH-].[Na+]
reactant | cinnamoyl chloride | 25 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | sodium hydroxide | 7.5 g | [OH-].[Na+]
solvent | water | 83 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | N,N'-biscinnamoylhydrazine | 11.6 g | C(C=CC1=CC=CC=C1)(=O)NNC(C=CC1=CC=CC=C1)=O | C18H16N2O2
